data/pmechdb/original/mc_train_fold0/raw/train.txt
C[S+:21](=O)(C)[CH2:20]C[CH:10]=[CH:11][O-:12]>>C1[CH2:20][CH:10]1[CH:11]=[O:12].C[S:21](=O)C 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C(=O)CC(CC1=O)(C)C)[C:22](=[O:23])C.[C-:10]#N.CC[N+](CC)(CC)[K]>>[H:20][C:10]#N.C[C:22](=[C:21]1C(=O)CC(CC1=O)(C)C)[O-:23].CC[N+](CC)(CC)[K] 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1CCC[P+]1(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)(C)[O-:10].C1CC=C(C1)C(=O)C2=CC=CC=C2.[K+]>>[H:20][O:10]C(C)(C)C.C1C[CH-:21][P+](C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1CC=C(C1)C(=O)C2=CC=CC=C2.[K+] 10=20;20,21=21
CC(C(=O)NCC1=CC=CC=C1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)NCC1=CC=CC=C1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][OH+:21]C1(CCCCO1)O.[OH2:10]>>C1CCOC(C1)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
C1=CC=C(C=C1)CCC=[O:10].Cl[Ti:20](Cl)(Cl)Cl.C[Si](C)(C)C=C=C>>C1=CC=C(C=C1)CCC=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl.C[Si](C)(C)C=C=C 10=20,
CC(C[O:10][CH2:20][OH2+:21])C1CCCCC1>>CC(C[O+:10]=[CH2:20])C1CCCCC1.[OH2:21] 10=20;20,21=21
C=CC1=CC2=C(C=C1)[C:20](CCO2)([N:10]3CCOCC3)[OH+:21][Ti-](Cl)(Cl)(Cl)Cl.C1COCCN1>>C=CC1=CC2=C(C=C1)[C:20](=[N+:10]3CCOCC3)CCO2.[OH:21][Ti-](Cl)(Cl)(Cl)Cl.C1COCCN1 10=20;20,21=21
CCCCCCN1CCC23[CH+:20]C(=CCC2C1CC4=C3C(=C(C=C4)OC)[OH:10])O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>CCCCCCN1CCC23C4C1CC5=C2C(=C(C=C5)OC)[OH+:10][CH:20]3C(=CC4)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10=20,
CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O[P:10](O)(OCCC#N)(OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C)[I:11].C1=CC=[NH+]C=C1.[I-]>>CC1C(CC(O1)N2C=C(C(=O)NC2=O)C)O[P+:10](O)(OCCC#N)OC3CC(OC3COC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)N7C=C(C(=O)NC7=O)C.[I-:11].C1=CC=[NH+]C=C1.[I-] 10,11=11
[H:20][OH+:21]C(C)(C)C(C)Br.[OH2:10]>>[H:20][OH2+:10].CC(C(C)(C)[OH:21])Br 10=20;20,21=21
CCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)CC)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)CC)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)N.[Br:20][Br:21]>>C1=C[C+:13]([CH:12]=[CH:11][CH:10]1[Br:20])N.[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][C:21](C)([CH:22]=[NH2+:23])C(CCC(=O)OC)C(=O)C.[NH3:10].C(=O)(O)[O-].O>>[H:20][NH3+:10].C[C:21](=[CH:22][NH2:23])C(CCC(=O)OC)C(=O)C.C(=O)(O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][CH:21]([C:22](=[O:23])C)C(=O)OCC.[H:10][Na:11]>>CCOC(=O)[CH:21]=[C:22](C)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
[H:20][C:21]1(C=CC=C[CH+:22]1)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[CH:22]=[C:21](C=C1)S(=O)(=O)O 10=20;20,21=21,22
[H:20][N+:21]1(CCN(CC1)C2=CC=C(C=C2)C3=CC4=C(C=C3)N(C5=C4C(=CC=N5)Cl)S(=O)(=O)C6=CC=CC=C6)C7(CCN(CC7)C)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CN1CCC(CC1)([N:21]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7)O 10=20;20,21=21
[H:20][OH2+:21].CCOCCC[Sn-:11](C)(C)([CH3:10])F>>[H:20][CH3:10].CCOCCC[Sn:11](C)(C)F.[OH2:21] 10,11=10,20;20,21=21
C1C[C:20](=[NH2+:21])C(C2C1CCN2CCS(=O)C3=CC=CC=C3)C4=C(C=CC=C4)[NH2:10].CC(=O)[O-].O>>C1C[C:20]2(C(C3C1CCN3CCS(=O)C4=CC=CC=C4)C5=C([NH2+:10]2)C=CC=C5)[NH2:21].CC(=O)[O-].O 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)[N+](=O)[O-])S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)[N+](=O)[O-])[C:21](=[CH:22]1)S(=O)(=O)O 10=20;20,21=21,22
C[C:20](N)([NH2:10])[OH+:21]C.[Cl-]>>C[C:20](=[NH2+:10])N.C[OH:21].[Cl-] 10=20;20,21=21
CCCCCOCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)C3CCCCC3)O>>CCCCCOCC1C(C[CH:20]=[O+:10]1)O.C1CCC(CC1)C2=CC=C[N:21]=C2 10=20;20,21=21
C1=CC=C(C=C1)C(=O)[CH2:20][Br:21].C(CO)[NH:10]CCO>>C1=CC=C(C=C1)C(=O)[CH2:20][NH+:10](CCO)CCO.[Br-:21] 10=20;20,21=21
[H:20][OH+:21]C.CC(=[NH:10])O[Si-](C)(C)(C)OC(=O)C>>[H:20][NH+:10]=C(C)O[Si-](C)(C)(C)OC(=O)C.C[OH:21] 10=20;20,21=21
C1CC(=O)OC1=[O:10].[Al:20](Cl)(Cl)Cl>>C1CC(=[O+:10][Al-:20](Cl)(Cl)Cl)OC1=O 10=20,
[H:20][OH2+:21].CCC[CH:10]=[C:11](C1=C(C=CC(=C1)Br)O)[O-:12].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-]>>[H:20][CH:10](CCC)[C:11](=[O:12])C1=C(C=CC(=C1)Br)O.[OH2:21].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21;12=11
C[Si](C)(C)OCCOC1(CCC2=C(O1)C=CC=C2)[O:10][Si](C)(C)C.C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F>>C[Si](C)(C)OCCOC1(CCC2=C(O1)C=CC=C2)[O+:10]([Si](C)(C)C)[Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F 10=20,
C1CC2=CC(=CC=C2[C:20](=[O+:21][Ti-](Cl)(Cl)(Cl)Cl)C1)Br.C1COCC[NH:10]1>>C1CC2=CC(=CC=C2[C:20](C1)([NH+:10]3CCOCC3)[O:21][Ti-](Cl)(Cl)(Cl)Cl)Br 10=20;20,21=21
[CH2:10]=[C:11](C1=CC=CC=C1)[O-:12].C1=CC=C(C=C1)[CH:20]=[O:21].O.[Na+]>>C1=CC=C(C=C1)[CH:20]([CH2:10][C:11](=[O:12])C2=CC=CC=C2)[O-:21].O.[Na+] 10,11=10,20;20,21=21;12=11
[CH2+:20]C1=CC=CC=C1.C1=C[CH:10]=[C:11](C=C1)CBr>>C1=CC=C(C=C1)[CH2:20][CH:10]2C=CC=C[C+:11]2CBr 10,11=10,20
C1=CN=C(C(=C1)[NH2:10])Cl.[N:20]#[O+:21].O.[Na+].[Br-]>>C1=CN=C(C(=C1)[NH2+:10][N:20]=[O:21])Cl.O.[Na+].[Br-] 10=20;20,21=21
